US07288654B2
A suspension of methyl 3-bromo-10-isobutyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate (690 mg), 4-(2-butoxyethoxy)phenylboric acid (605 mg) and potassium carbonate (702 mg) in toluene (15 ml), ethanol (1.5 ml) and water (1.5 ml) was stirred under an argon atmosphere for 30 minutes. Tetrakis(triphenylphosphine)palladium (113 mg) was added thereto, and the mixture was heated at 115° C. for 5 hours under an argon atmosphere. The solution was allowed to cool. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1→hexane:ethyl acetate=4:1) to give methyl 3-[4-(2-butoxyethoxy)phenyl]-10-isobutyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate (723 mg) as a yellow oily material.

reactant | methyl 3-bromo-10-isobutyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate | 690 mg | BrC1=CC2=C(N(CCCC(=C2)C(=O)OC)CC(C)C)N=C1 | C16H21BrN2O2
reactant | 4-(2-butoxyethoxy)phenylboric acid | 605 mg | C(CCC)OCCOC1=CC=C(C=C1)OB(O)O | C12H19BO5
reactant | potassium carbonate | 702 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 113 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-[4-(2-butoxyethoxy)phenyl]-10-isobutyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate | 723 mg | C(CCC)OCCOC1=CC=C(C=C1)C1=CC2=C(N(CCCC(=C2)C(=O)OC)CC(C)C)N=C1 | C28H38N2O4
